US04237067
N-(3-dimethylaminopropyl)-3-ethoxypropionamide.
117.2 g of (1.0 mole) of 3-ethoxypropionamide are heated with 107.3 g (1.05 mole) of 3-dimethylaminopropylamine for 6 hours in a temperature range of 145°-170° C. until the evolution of ammonia is complete. In the subsequent distillation in a high vacuum 184 g (0.91 mole=91% of the theoretical yield) of colorless liquid are obtained having a Bp0.1 of 114°-118° C.

reactant | 3-ethoxypropionamide | 1.0 mole, 117.2 g | C(C)OCCC(=O)N | C5H11NO2
reactant | 3-dimethylaminopropylamine | 1.05 mole, 107.3 g | CN(CCCN)C | C5H14N2
reactant | ammonia | N | H3N
product | N-(3-dimethylaminopropyl)-3-ethoxypropionamide | CN(CCCNC(CCOCC)=O)C | C10H22N2O2
